datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cc(C)nc([N-:10]S(=O)(=O)c2ccc(N)cc2)n1.Cc1cc(N)ccc1C[NH2+:21][H:20]>>Cc1cc(C)nc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])n1.Cc1cc(N)ccc1C[NH2:21] 10=20;20,21=21",
"C1CC[NH+](CC[N+:21]2([H:20])CCCC2)C1.Cc1cc([NH3+])ccc1-c1ccc([NH2:10])cc1C>>C1CC[NH+](CC[N:21]2CCCC2)C1.Cc1cc([NH3+])ccc1-c1ccc([NH2+:10][H:20])cc1C 10=20;20,21=21",
"C[NH:10]CCN.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10](CCN)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1>>CC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"CCCCCCCC[NH:10]Cc1ccc(C)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"NC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O-:10].O=C1C=C([O:21][H:20])c2ccc(O)cc2O1>>NC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O:10][H:20].O=C1C=C([O-:21])c2ccc(O)cc2O1 10=20;20,21=21",
"CC[N+:21](CC)(CCCC#N)[H:20].C[N:10](CCO)c1ccccc1>>CC[N:21](CC)CCCC#N.C[N+:10](CCO)(c1ccccc1)[H:20] 10=20;20,21=21",
"O=C1C=CC(=O)c2c1cccc2[O-:10].OCCCCCc1ccc[n+:21]([H:20])c1>>O=C1C=CC(=O)c2c1cccc2[O:10][H:20].OCCCCCc1ccc[n:21]c1 10=20;20,21=21",
"CC1=CC(C)=N/C(=[O+:21]\[H:20])N1C.C[NH+](C)CCc1ccccc1[O-:10]>>CC1=CC(C)=NC(=[O:21])N1C.C[NH+](C)CCc1ccccc1[O:10][H:20] 10=20;20,21=21",
"CS(=O)c1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CS(=O)c1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.NC1CC[NH:10]CC1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.NC1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N:21](c2ccc(S(N)(=O)=O)cc2)[H:20])cc1.Nc1sc(c2ccccc2)n[n:10]1>>Nc1ccc(S(=O)(=O)[N-:21]c2ccc(S(N)(=O)=O)cc2)cc1.Nc1sc(c2ccccc2)n[n+:10]1[H:20] 10=20;20,21=21",
"CCCCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].CC[C@]12CCC[N:10]3CC[C@@]4(c5cccc(OC)c5N[C@H]4CC1)[C@H]23>>CCCCCCCCCC[N:21](CC(C)O)CC(C)O.CC[C@]12CCC[N+:10]3([H:20])CC[C@@]4(c5cccc(OC)c5N[C@H]4CC1)[C@H]23 10=20;20,21=21",
"NC(=O)C(Cc1c[nH]c2ccccc12)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC(=O)C(Cc1c[nH]c2ccccc12)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOCCn1c(N2CCC[N:10](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21.Cc1cc(-c2ccc([NH2+:21][H:20])c(C)c2)ccc1[NH3+]>>CCOCCn1c(N2CCC[N+:10](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21.Cc1cc(-c2ccc([NH2:21])c(C)c2)ccc1[NH3+] 10=20;20,21=21",
"CC(C)(C)c1ccccc1[NH2+:21][H:20].CC[NH:10]c1ccccc1C>>CC(C)(C)c1ccccc1[NH2:21].CC[NH+:10](c1ccccc1C)[H:20] 10=20;20,21=21",
"Cc1cc(O)n(-c2nc([O-])cc(C)[n:10]2)n1.S=C1NC(c2ccccc2)=C(SCc2ccccc2)[N:21]1[H:20]>>Cc1cc(O)n(-c2nc([O-])cc(C)[n+:10]2[H:20])n1.S=C1NC(c2ccccc2)=C(SCc2ccccc2)[N-:21]1 10=20;20,21=21",
"CN1CCCCC[N:10]1C.C[NH+](C)CCN1C=[N+:21]([H:20])c2cccc3cccc1c23>>CN1CCCCC[N+:10]1(C)[H:20].C[NH+](C)CCN1C=[N:21]c2cccc3cccc1c23 10=20;20,21=21",
"O=C(O)C[NH+](CC(=O)[O:21][H:20])Cc1cc([N+](=O)[O-])ccc1O.c1ccc(CO[n+]2ccccc2[O-:10])cc1>>O=C(O)C[NH+](CC(=O)[O-:21])Cc1cc([N+](=O)[O-])ccc1O.c1ccc(CO[n+]2ccccc2[O:10][H:20])cc1 10=20;20,21=21",
"CCC(=O)c1cc(C(=O)C(C)(C)C)n[n-:10]1.O=C([O-])C[N+:21]1([H:20])CCCCC1>>CCC(=O)c1cc(C(=O)C(C)(C)C)n[n:10]1[H:20].O=C([O-])C[N:21]1CCCCC1 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].O=C([O-])[C@H](NCC[NH:10][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-]>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.O=C([O-])[C@H](NCC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-] 10=20;20,21=21",
"C=CCC(C)(O)C[N:10](CC)CC.C[n+]1ccccc1/C=N/[O:21][H:20]>>C=CCC(C)(O)C[N+:10](CC)(CC)[H:20].C[n+]1ccccc1/C=N/[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCC#CC#CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCC#CC#CCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-])[NH:10]C1C(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)C1CC(CC(=O)[O-])[NH+:10]([H:20])C1C(=O)[O-].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1cc([O-:10])ccc1Cl.N#CC(C#N)=N[N:21](c1cccc(Cl)c1)[H:20]>>Cc1cc([O:10][H:20])ccc1Cl.N#CC(C#N)=N[N-:21]c1cccc(Cl)c1 10=20;20,21=21",
"CN1C=CC(=[O:10])C=C1.c1ccc(CCN[NH2+:21][H:20])cc1>>CN1C=CC(=[O+:10][H:20])C=C1.c1ccc(CCN[NH2:21])cc1 10=20;20,21=21",
"O=P(C1CCCCC1)(C1CCCCC1)[O-:10].[NH3+]CCCCC(=O)[O:21][H:20]>>O=P(C1CCCCC1)(C1CCCCC1)[O:10][H:20].[NH3+]CCCCC(=O)[O-:21] 10=20;20,21=21",
"CCC(C)[NH:10]CC(C)C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCC(C)[NH+:10](CC(C)C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCOC(=O)N1CC[NH+:21]([H:20])CC1.c1ccc(-c2[nH]cc[n:10]2)nc1>>CCOC(=O)N1CC[NH:21]CC1.c1ccc(-c2[nH]cc[n+:10]2[H:20])nc1 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])c[nH]1.c1ccc([P:10](c2ccccc2)c2ccccc2)cc1>>Cc1cc(C(=O)[O-:21])c[nH]1.c1ccc([P+:10](c2ccccc2)(c2ccccc2)[H:20])cc1 10=20;20,21=21",
